US04927958
A solution of 5 g (21 mmol) of (E)-4-(3,4,5-trimethoxyphenyl)but-3-en-2-one and 2 g (21.7 mmol) of glyoxylic acid monohydrate in 5.2 ml of acetic acid was heated at reflux for 20 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was extracted twice with 3N sodium hydroxide solution. The combined aqueous phases were treated with 3N hydrochloric acid to produce a strongly acidic reaction and extracted twice with ethyl acetate. The combined organic phases were dried over magnesium sulphate and concentrated. Crystallization of the residue from methylene chloride/ether yielded (E,E)-4-oxo-6-(3,4,5-trimethoxyphenyl)-2,5-hexadienoic acid of melting point 152°-154°.

reactant | (E)-4-(3,4,5-trimethoxyphenyl)but-3-en-2-one | 21 mmol, 5 g | COC=1C=C(C=C(C1OC)OC)/C=C/C(C)=O | C13H16O4
reactant | glyoxylic acid monohydrate | 21.7 mmol, 2 g | O.C(C=O)(=O)O
solvent | acetic acid | 5.2 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | (E,E)-4-oxo-6-(3,4,5-trimethoxyphenyl)-2,5-hexadienoic acid | O=C(/C=C/C(=O)O)\C=C\C1=CC(=C(C(=C1)OC)OC)OC | C15H16O6
